US08809333B2
To a solution of (2R)-2-methyl-4-(5-methyl-4-phenyl-1H-1,2,3-triazol-1-yl)-2-(methylsulfonyl)butanoic acid and (2R)-2-methyl-4-(4-methyl-5-phenyl-1H-1,2,3-triazol-1-yl)-2-(methylsulfonyl)butanoic acid (115 mg, 0.341 mmol, 1 eq) in THF (5 mL) was added N-methyl morpholine (65.5 mg, 0.341 mmol, 1 eq), and CDMT (59.9 mg, 0.341 mmol, 1 eq). The reaction mixture was allowed to stir at RT for 1 h then O-tetrahydro-2H-pyran-2-yl-hydroxylamine (39.9 mg 0.341 mmol, 1 eq) was added and the reaction mixture was allowed to stir at RT for 2 days. Upon completion of the coupling reaction (as observed by LC-MS monitoring), 1 mL of TFA was added and the mixture was allowed to stir at RT for 3 h. The reaction mixture was concentrated and purified by HPLC to give (2R)—N-hydroxy-2-methyl-4-(5-methyl-4-phenyl-1H-1,2,3-triazol-1-yl)-2-(methylsulfonyl)butanamide (14 mg) as a 10:1 mixture with the corresponding regioisomer (2R)—N-hydroxy-2-methyl-4-(4-methyl-5-phenyl-1H-1,2,3-triazol-1-yl)-2-(methylsulfonyl)butanamide. 1H NMR (400 MHz, METHANOL-d4) δ 7.61-7.67 (m, 2H), 7.43-7.50 (m, 2H), 7.38 (d, J=7.42 Hz, 1H), 4.51-4.63 (m, 1H), 4.36-4.48 (m, 1H), 3.06 (s, 3H), 2.85-2.93 (m, 1H), 2.51 (s, 3H), 2.43 (ddd, J=13.42, 10.10, 5.37 Hz, 1H), 1.72 (s, 3H). LC-MS M+H+353.1.

reactant | (2R)-2-methyl-4-(5-methyl-4-phenyl-1H-1,2,3-triazol-1-yl)-2-(methylsulfonyl)butanoic acid | C[C@](C(=O)O)(CCN1N=NC(=C1C)C1=CC=CC=C1)S(=O)(=O)C | C15H19N3O4S
reactant | (2R)-2-methyl-4-(4-methyl-5-phenyl-1H-1,2,3-triazol-1-yl)-2-(methylsulfonyl)butanoic acid | 0.341 mmol, 115 mg, 1 eq | C[C@](C(=O)O)(CCN1N=NC(=C1C1=CC=CC=C1)C)S(=O)(=O)C | C15H19N3O4S
reactant | N-methyl morpholine | 0.341 mmol, 65.5 mg, 1 eq | CN1CCOCC1 | C5H11NO
reactant | O-tetrahydro-2H-pyran-2-yl-hydroxylamine | 0.341 mmol, 39.9 mg, 1 eq | O1C(CCCC1)ON | C5H11NO2
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2R)—N-hydroxy-2-methyl-4-(5-methyl-4-phenyl-1H-1,2,3-triazol-1-yl)-2-(methylsulfonyl)butanamide | 14 mg | ONC([C@@](CCN1N=NC(=C1C)C1=CC=CC=C1)(S(=O)(=O)C)C)=O | C15H20N4O4S
